US07569571B2
B. N-Cyclopropyl-4-methyl-3-[6-(4-methylcarbamoyl-phenyl)-purin-9-yl]-benzamide
To a solution of the 4-[9-(5-Cyclopropylcarbamoyl-2-methyl-phenyl)-9H-purin-6-yl]-benzoic acid (10 mg, 0.024 mmol) and the methyl amine (3.0 mg, 0.097 mmol) in 0.5 mL of dry DMF was added 1-hydroxybenzotriazole (7.4 mg, 0.048 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (9.2 mg, 0.048 mmol) at 20° C. The reaction mixture was stirred at 20° C. for 4 hours. And then 2 mL of water was added. The product was collected by filtration to give a colorless solid (8.2 mg, 80%). HPLC tR=1.99 min; MS m/z 427 [M+H]+.

reactant | 4-[9-(5-Cyclopropylcarbamoyl-2-methyl-phenyl)-9H-purin-6-yl]-benzoic acid | 0.024 mmol, 10 mg | C1(CC1)NC(=O)C=1C=CC(=C(C1)N1C2=NC=NC(=C2N=C1)C1=CC=C(C(=O)O)C=C1)C | C23H19N5O3
reactant | methyl amine | 0.097 mmol, 3.0 mg | CN | CH5N
reactant | 1-hydroxybenzotriazole | 0.048 mmol, 7.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.048 mmol, 9.2 mg | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | water | 2 mL | O | H2O
product | N-Cyclopropyl-4-methyl-3-[6-(4-methylcarbamoyl-phenyl)-purin-9-yl]-benzamide | 8.2 mg, 80% | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C2=NC=NC(=C2N=C1)C1=CC=C(C=C1)C(NC)=O)=O | C24H22N6O2
